Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[n:3][cH:4][c:5]([CH3:6])[cH:7][c:8]1[CH3:9].[CH3:10][N:11]([CH2:12][CH2:13][CH2:14][CH2:15][NH:16][CH:17]1[CH2:18][CH2:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][n:25][c:26]21)[C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33]>>[CH2:1]([c:2]1[n:3][cH:4][c:5]([CH3:6])[cH:7][c:8]1[CH3:9])[N:16]([CH2:15][CH2:14][CH2:13][CH2:12][N:11]([CH3:10])[C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[CH:17]1[CH2:18][CH2:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][n:25][c:26]21,[CH3:10][N:11]([CH2:12][CH2:13][CH2:14][CH2:15][NH:16][CH:17]1[CH2:18][CH2:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][n:25][c:26]21)[C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33].[O:101]=[CH:1][c:2]1[n:3][cH:4][c:5]([CH3:6])[cH:7][c:8]1[CH3:9].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[n:3][cH:4][c:5]([CH3:6])[cH:7][c:8]1[CH3:9])[N:16]([CH2:15][CH2:14][CH2:13][CH2:12][N:11]([CH3:10])[C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[CH:17]1[CH2:18][CH2:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][n:25][c:26]21,reductive_amination,"[(16, 1), ([1, 101], 301), (101, 16.1), ([16.1, 16], 16), (16, [16, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 16], 16)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[c:9]([N+:10](=[O:11])[O-:12])[cH:13][cH:14]1.[O:15]=[C:16]1[NH:17][C:18](=[O:19])[c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]21>>[CH2:1]([c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[c:9]([N+:10](=[O:11])[O-:12])[cH:13][cH:14]1)[N:17]1[C:16](=[O:15])[c:25]2[c:20]([cH:21][cH:22][cH:23][cH:24]2)[C:18]1=[O:19],[Br:101][CH2:1][c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[c:9]([N+:10](=[O:11])[OH:12])[cH:13][cH:14]1.[O:15]=[C:16]1[NH:17][C:18](=[O:19])[c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]21>>[CH2:1]([c:2]1[cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[c:9]([N+:10](=[O:11])[OH:12])[cH:13][cH:14]1)[N:17]1[C:16](=[O:15])[c:25]2[c:20]([cH:21][cH:22][cH:23][cH:24]2)[C:18]1=[O:19],SN2,"[(17, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH:2]([CH2:3][CH3:4])[N:5]([CH2:6][CH:7]1[CH2:8][CH2:9]1)[c:10]1[cH:11][cH:12][c:13]([C:14]#[N:15])[c:16]([Cl:17])[cH:18]1)=[O:19].[CH3:20][CH2:21][NH2:22]>>[C:1]([CH:2]([CH2:3][CH3:4])[N:5]([CH2:6][CH:7]1[CH2:8][CH2:9]1)[c:10]1[cH:11][cH:12][c:13]([C:14]#[N:15])[c:16]([Cl:17])[cH:18]1)(=[O:19])[NH:22][CH2:21][CH3:20],[OH:101][C:1]([CH:2]([CH2:3][CH3:4])[N:5]([CH2:6][CH:7]1[CH2:8][CH2:9]1)[c:10]1[cH:11][cH:12][c:13]([C:14]#[N:15])[c:16]([Cl:17])[cH:18]1)=[O:19].[CH3:20][CH2:21][NH2:22].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]([CH2:3][CH3:4])[N:5]([CH2:6][CH:7]1[CH2:8][CH2:9]1)[c:10]1[cH:11][cH:12][c:13]([C:14]#[N:15])[c:16]([Cl:17])[cH:18]1)(=[O:19])[NH:22][CH2:21][CH3:20],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (22, 1), ([1, 19], 19), (303, 22.1), ([22.1, 22], 22), (19, [19, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2](=[O:3])OC(C)=O.[NH2:4][c:5]1[n:6][cH:7][n:8][c:9]([NH:10][C@@H:11]2[CH2:12][CH2:13][CH2:14][c:15]3[cH:16][cH:17][cH:18][cH:19][c:20]32)[n:21]1>>[CH3:1][C:2](=[O:3])[NH:4][c:5]1[n:6][cH:7][n:8][c:9]([NH:10][C@@H:11]2[CH2:12][CH2:13][CH2:14][c:15]3[cH:16][cH:17][cH:18][cH:19][c:20]32)[n:21]1,[NH2:4][c:5]1[n:6][cH:7][n:8][c:9]([NH:10][C@@H:11]2[CH2:12][CH2:13][CH2:14][c:15]3[cH:16][cH:17][cH:18][cH:19][c:20]32)[n:21]1.CC(=O)[O:101][C:2]([CH3:1])=[O:3]>>[CH3:1][C:2](=[O:3])[NH:4][c:5]1[n:6][cH:7][n:8][c:9]([NH:10][C@@H:11]2[CH2:12][CH2:13][CH2:14][c:15]3[cH:16][cH:17][cH:18][cH:19][c:20]32)[n:21]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(4, 2), ([2, 3], 3), (3, [3, 2]), ([2, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][n:8]2[cH:9][cH:10][c:11]([N+:12](=[O:13])[O-:14])[n:15]2)[o:16]1>>[CH2:1]([OH:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][n:8]2[cH:9][cH:10][c:11]([N+:12](=[O:13])[O-:14])[n:15]2)[o:16]1,C[O:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][n:8]2[cH:9][cH:10][c:11]([N+:12](=[O:13])[OH:14])[n:15]2)[o:16]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][n:8]2[cH:9][cH:10][c:11]([N+:12](=[O:13])[OH:14])[n:15]2)[o:16]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
